US05576318
N-(2-Aminophenyl)-4-(3-trifluoromethylphenyl)-1-piperazinpropionamide
The compound was prepared according to the method described in J. Med. Chem. 30, 13 (1987) by catalytic reduction of N-(2-nitrophenyl)-4-(3-trifluoromethylphenyl)-1-piperazin propionamide in the presence of 10% Pd/C. Monohydrochloride salt. M.p. 194°-196° C.

reactant | N-(2-nitrophenyl)-4-(3-trifluoromethylphenyl)-1-piperazin propionamide | [N+](=O)([O-])C1=C(C=CC=C1)NC(CCN1CCN(CC1)C1=CC(=CC=C1)C(F)(F)F)=O | C20H21F3N4O3
reactant | Monohydrochloride | Cl | ClH
catalyst | Pd/C | [Pd] | Pd
product | N-(2-Aminophenyl)-4-(3-trifluoromethylphenyl)-1-piperazinpropionamide | NC1=C(C=CC=C1)NC(CCN1CCN(CC1)C1=CC(=CC=C1)C(F)(F)F)=O | C20H23F3N4O
